US06369075B1
7-{[2-(4-Trifluoromethyl-phenyl)-pyridine-3-carbonyl]-amino}-quinoline-3-carboxylic acid
7-{[2-(4-Trifluoromethyl-phenyl)-pyridine-3-carbonyl]-amino}-quinoline-3-carboxylic acid ethyl ester (160 mg, 0.34 mmol) was dissolved in 5 ml of a 3:1:1 mixture of tetrahydrofuran-methanol-water, and lithium hydroxide monohydrate (29 mg, 0.69 mmol) was added. After 2.5 h at room temperature, the volatiles were removed under vacuum and 5 ml of water was added to the mixture, which was brought to pH 4 with 1N HCl. The resulting slurry was filtered to provide 147 mg of the title compound as a yellow solid.

reactant | 7-{[2-(4-Trifluoromethyl-phenyl)-pyridine-3-carbonyl]-amino}-quinoline-3-carboxylic acid ethyl ester | 0.34 mmol, 160 mg | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1)NC(=O)C=1C(=NC=CC1)C1=CC=C(C=C1)C(F)(F)F | C25H18F3N3O3
reactant | lithium hydroxide monohydrate | 0.69 mmol, 29 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran-methanol water | O1C(CCC1)CO.O
product | 7-{[2-(4-Trifluoromethyl-phenyl)-pyridine-3-carbonyl]-amino}-quinoline-3-carboxylic acid | 147 mg | FC(C1=CC=C(C=C1)C1=NC=CC=C1C(=O)NC1=CC=C2C=C(C=NC2=C1)C(=O)O)(F)F | C23H14F3N3O3
